US04458075
1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-(3,4-dichlorophenoxy)piperidine hydrochloride
To a solution of 6.4 g of 1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-4-hydroxypiperidine, 3.7 g of 3,4-dichlorophenol and 6.6 g of triphenylphosphine in 200 ml of benzene, cooled with an ice bath, was slowly added over one hr a solution of 4.4 g of diethyl azodicarboxylate in 50 ml of benzene. After stirring twenty hrs at ambient temperature, the reaction mixture was filtered and the filtrate was concentrated. The residue was treated with ethereal hydrogen chloride to yield a salt. The salt was rebasified to given an oil, which was purified by column chromatography (silica gel, tetrahydrofuran). The purified oil was treated with ethereal hydrogen chloride, and the resultant salt was recrystallized from ethyl acetate/methanol to give 2.4 g (23%) or product, mp 212°-214° C.

reactant | 1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-4-hydroxypiperidine | 6.4 g | FC1=CC2=C(C(=NO2)CCCN2CCC(CC2)O)C=C1 | C15H19FN2O2
reactant | 3,4-dichlorophenol | 3.7 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | triphenylphosphine | 6.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 4.4 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-(3,4-dichlorophenoxy)piperidine hydrochloride | Cl.FC1=CC2=C(C(=NO2)CCCN2CCC(CC2)OC2=CC(=C(C=C2)Cl)Cl)C=C1 | InChI=1S/C21H21Cl2FN2O2.ClH/c22-18-6-4-16(13-19(18)23)27-15-7-10-26(11-8-15)9-1-2-20-17-5-3-14(24)12-21(17)28-25-20;/h3-6,12-13,15H,1-2,7-11H2;1H
